US09382241B2
To 4,6-dichloro-8-iodo-quinazoline (1.00 g, 3.08 mmol) was added 2.4 mL of 7N ammonia/methanol. The mixture was capped and shaken overnight at room temperature. The rxn was then concentrated via rotovap yielding product as a white solid. The product was purified by flash column (2.5-10% Methanol:Dichloromethane), yielding 450 mg of 6-chloro-8-iodo-quinazolin-4-amine 1H NMR (400 MHz, DMSO) δ 8.51-8.45 (s, 1H), 8.45-8.41 (d, J=2.0 Hz, 1H), 8.41-8.35 (d, J=1.9 Hz, 1H), 8.12-7.92 (bs, 2H). LCMS M/Z (M+H)=306.

reactant | 4,6-dichloro-8-iodo-quinazoline | 3.08 mmol, 1.00 g | ClC1=NC=NC2=C(C=C(C=C12)Cl)I | C8H3Cl2IN2
reactant | ammonia methanol | 7N, 2.4 mL | N.CO
product | 6-chloro-8-iodo-quinazolin-4-amine | 450 mg | ClC=1C=C2C(=NC=NC2=C(C1)I)N | C8H5ClIN3
